US07696223B2
c) 5,7-Dibromo-2-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-1-methyl-1H-indole-3-carboxylic acid ethyl ester
Prepared in analogy to that of Example 1(c) from 5,7-dibromo-2-bromomethyl-1-methyl-1H-indole-3-carboxylic acid ethyl ester and tert-butoxycarbonylamino-acetic acid ethyl ester. The title compound, 1H NMR (200 MHz, CDCl3): δ (ppm)=8.36 (s, 1H), 7.62 (s, 1H), 5.18 (s, 2H), 4.4-3.79 (m, 8H), 1.6-1.0 (m, 15H).

reactant | 5,7-dibromo-2-bromomethyl-1-methyl-1H-indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C2=C(C=C(C=C12)Br)Br)C)CBr | C13H12Br3NO2
reactant | tert-butoxycarbonylamino-acetic acid ethyl ester | C(C)OC(CNC(=O)OC(C)(C)C)=O | C9H17NO4
product | 5,7-Dibromo-2-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-1-methyl-1H-indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C2=C(C=C(C=C12)Br)Br)C)CN(CC(=O)OCC)C(=O)OC(C)(C)C | C22H28Br2N2O6
